US07291631B2
To a solution of {4-[(1H-benzoimidazol-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester (0.215 g, 0.51 mmol) in CH2Cl2 (10 mL) was added Et3N (0.30 mL, 2.15 mmol) followed by benzenesulfonyl chloride (0.13 ml, 1.02 mmol) and the resultant solution was stirred at room temperature overnight. The mixture was diluted with CH2Cl2 (40 mL), washed with brine (3×10 mL), dried (Na2SO4), and concentrated. Purification of the crude material by column chromatography on silica gel (15:1 CH2Cl2-MeOH) provided 0.202 g (70%) of {4-[(1-Benzenesulfonyl-1H-benzoimidazol-2-ylmethyl)-(3-methyl-pyridin−2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester as an orange-brown oil.

reactant | {4-[(1H-benzoimidazol-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | 0.51 mmol, 0.215 g | C(C)(C)(C)OC(NCCCCN(CC1=NC=CC=C1C)CC1=NC2=C(N1)C=CC=C2)=O | C24H33N5O2
reactant | Et3N | 2.15 mmol, 0.30 mL | CCN(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 1.02 mmol, 0.13 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | {4-[(1-Benzenesulfonyl-1H-benzoimidazol-2-ylmethyl)-(3-methyl-pyridin−2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | 0.202 g, 70% | C(C)(C)(C)OC(NCCCCN(CC1=NC=CC=C1C)CC1=NC2=C(N1S(=O)(=O)C1=CC=CC=C1)C=CC=C2)=O | C30H37N5O4S
